US08168658B2
4-[1-(acetylamino)-2-ethoxy-2-oxoethyl]benzoic acid.
4-(1-amino-2-ethoxy-2-oxoethyl)benzoic acid, as described in Example 1, Step B, (0.94 g, 2.79 mmol) and DIPEA (1.509 mL, 8.64 mmol) were suspended in THF (4 mL) and acetic anhydride (0.289 mL, 3.07 mmol) was added. The mixture was stirred at room temperature overnight. 2N HCl was added and the products extracted into EtOAc. The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by prep-HPLC to give the desired product as a white powder. 1H NMR (DMSO-d6, 600 MHz) δ 13.00 (br s, 1H), 8.77 (d, J=7.2 Hz, 1H), 7.92 (d, J=8.4 Hz, 2H), 7.47 (d, J=8.4 Hz, 2H), 5.45 (d, J=7.2 Hz, 1H), 4.07 (m, 2H), 1.88 (s, 3H), 1.09 (t, J=7.2 Hz, 3H). MS: cal'd 266 (MH+), exp 266 (MH+).

reactant | 4-(1-amino-2-ethoxy-2-oxoethyl)benzoic acid | NC(C(=O)OCC)C1=CC=C(C(=O)O)C=C1 | C11H13NO4
reactant | DIPEA | 8.64 mmol, 1.509 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetic anhydride | 3.07 mmol, 0.289 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-[1-(acetylamino)-2-ethoxy-2-oxoethyl]benzoic acid | C(C)(=O)NC(C(=O)OCC)C1=CC=C(C(=O)O)C=C1 | C13H15NO5
